US09107916B2
B. 2-[5-[(2-butoxy-4-chlorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-chloro-2-butoxyphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 0.95 (3H, t, J=7.2 Hz), 1.41-1.48 (2H, m), 1.74-1.79 (2H, m), 4.01 (2H, t, J=6.4 Hz), 5.23 (2H, s), 5.77 (1H, d, J=1.6 Hz), 6.90 (1H, d, J=2.0 Hz), 6.95 (1H, dd, J=1.6 Hz, 7.6 Hz), 7.34 (1H, d, J=8.0 Hz), 7.39 (1H, dd, J=0.8 Hz, 4.8 Hz), 7.57 (1H, d, J=1.6 Hz), 8.04 (1H, s), 8.70 (1H, d, J=4.8 Hz). [M+H] Calc'd for C20H19ClN4O2, 383. Found, 383.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-chloro-2-butoxyphenyl)methanol | ClC1=CC(=C(C=C1)CO)OCCCC | C11H15ClO2
product | 2-[5-[(2-butoxy-4-chlorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | C(CCC)OC1=C(C=CC(=C1)Cl)COC1=CC=NN1C1=NC=CC(=C1)C#N | C20H19ClN4O2
